US07262182B2
N-methyl-2-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]acetamide.
To a solution of crushed sodium hydroxide pellets, 2.28 g (57 mmol), in 20 mL anhydrous methanol cooled in an ice bath was added N-methyl-2-mercaptoacetamide, 3 g (28.5 mmol), slowly, followed by the addition of 20 mL anhydrous toluene and 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)-phosphorodiamidate, 34.4 mL of 0.83 M solution in toluene (28.5), while maintaining the temperature at 5° C. or less. After stirring for about 30 min, the reaction mixture became a white slurry. It was stirred at 5° C. to room temperature overnight. LC-MS analysis indicated all the starting material, N-methyl-2-mercaptoacetamide, was consumed and the desired product was formed as a major product. The mixture was filtered and the filtrate was concentrated. The residue was partitioned between diisopropyl acetate and brine. The aqueous phase was further extracted with diisopropyl acetate three times, and the combined organic phases were dried (MgSO4) and evaporated to give the crude product, which was purified by column chromatography on a silica column using hexane/acetate and acetate/methanol as eluting solvents to afford N-methyl-2-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]acetamide as a light yellow oil, 12 g (88% yield). 1H NMR (DMSO): δ 7.90 (bs, 1H) 4.05 (m, 2H), 3.71 (m, 8H), 3.33 (m, 8H), 3.12 (s, 2H), 2.87 (m, 2H), 2.59 (d, 3H, J=4.7 Hz), 2.76 (m, 1H). Mass spectrum (LC-MS): m/z 496 [C13H26Cl4N3O3PS+H]+.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-methyl-2-mercaptoacetamide | CNC(CS)=O | C3H7NOS
reactant | 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)-phosphorodiamidate | ClCCN(P(OCCOS(=O)(=O)C1=CC=C(C=C1)Br)(=O)N(CCCl)CCCl)CCCl | C16H24BrCl4N2O5PS
solvent | methanol | 20 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-2-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]acetamide | CNC(CSCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl)=O | C13H26Cl4N3O3PS
